US04644010
A solution of 2.2 g of pyrrole-2-carboxylic acid, 8.4 ml of anhydrous triethylamine and 2.1 ml of ethyl cyanoacetate in dimethylformamide is treated with 2.9 ml of diethyl phosphorocyanidate at room temperature. After stirring for 80 minutes at room temperature, the reaction mixture is cooled in an ice bath, treated with about 50 ml of water and acidified with 6N hydrochloric acid. The crude precipitate is collected, washed with water, dried and recrystallized from ether to yield β-oxo-α-ethoxycarbonyl-β-(2-pyrrolyl)-propionitrile, m.p. 138°-9°.

reactant | pyrrole-2-carboxylic acid | 2.2 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | ethyl cyanoacetate | 2.1 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | diethyl phosphorocyanidate | 2.9 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | about 50 ml | O | H2O
solvent | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
product | β-oxo-α-ethoxycarbonyl-β-(2-pyrrolyl)-propionitrile | O=C(C(C#N)C(=O)OCC)C=1NC=CC1 | C10H10N2O3
